US04808581
N,N-Dimethyl-3-(5-propyl-1H-imidazol-4-yl)propanamide
A solution of (E)-N,N-dimethyl-3-(5-propyl-1H-imidazol-4-yl)-2-propenamide (500 mg) in ethanol (25 ml) was added to a suspension of pre-reduced 10% palladium oxide on carbon catalyst (150 mg, 50% paste with water) in ethanol (15 ml). The mixture was stirred in a hydrogen atmosphere for 2 h, then filtered (Hyflo) and evaporated to give the title compound (500 mg) as a colorless oil, t.l.c. on Et3N impregnated SiO2 (ethyl acetate:methanol 4:1), Rf 0.33.

reactant | (E)-N,N-dimethyl-3-(5-propyl-1H-imidazol-4-yl)-2-propenamide | 500 mg | CN(C(\C=C\C=1N=CNC1CCC)=O)C | C11H17N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | N,N-Dimethyl-3-(5-propyl-1H-imidazol-4-yl)propanamide | 500 mg | CN(C(CCC=1N=CNC1CCC)=O)C | C11H19N3O
